US09169249B2
A DMSO (40 ml) solution of ((S)-1-(tert-butoxycarbonyl)-4,4-difluoropyrrolidin-2-yl)methyl methanesulfonate and NaCN (1.59 g, 3.24 mmol) was stirred at 45° C. for 4 hours and at 50° C. for 2 days, the progress of the reaction was monitored by LC-MS. After cooling to room temperature, the reaction was quenched by the addition of water (˜60 ml). Reaction mixture was extracted with EtOAc (˜40 ml), two layers were separated, organic layer was washed with brine (˜25 ml), the extraction and wash sequence was repeated for two more times. Organic layers were combined, dried (Na2SO4), filtered, solvent was removed in vacuo. Product was purified by silica gel chromatography (Hexane/EtOAc, gradient from 100:0 to 80:20). Compound (R)-tert-butyl 2-(cyanomethyl)-4,4-difluoropyrrolidine-1-carboxylate was obtained as a colorless oil: 2.10 g (76% yield over 2 steps).

reactant | ((S)-1-(tert-butoxycarbonyl)-4,4-difluoropyrrolidin-2-yl)methyl methanesulfonate | CS(=O)(=O)OC[C@H]1N(CC(C1)(F)F)C(=O)OC(C)(C)C | C11H19F2NO5S
reactant | NaCN | 3.24 mmol, 1.59 g | [C-]#N.[Na+]
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
product | (R)-tert-butyl 2-(cyanomethyl)-4,4-difluoropyrrolidine-1-carboxylate | 76% yield | C(#N)C[C@H]1N(CC(C1)(F)F)C(=O)OC(C)(C)C | C11H16F2N2O2
